US07498460B2
Methyl 1-(5-(ethoxycarbonyl)-2-{3-[4-(4-phenoxybutoxy)phenyl]propoxy}benzoyl)-3-azetidinecarboxylate
The compound is prepared in analogy to the process described in Example 6 from 5-(ethoxycarbonyl)-2-{3-[4-(4-phenoxybutoxy)phenyl]propoxy}benzoic acid and methyl 3-azetidinecarboxylate [CAS No. 343238-58-4]. The crude product is immediately reacted further without purification.

reactant | 5-(ethoxycarbonyl)-2-{3-[4-(4-phenoxybutoxy)phenyl]propoxy}benzoic acid | C(C)OC(=O)C=1C=CC(=C(C(=O)O)C1)OCCCC1=CC=C(C=C1)OCCCCOC1=CC=CC=C1 | C29H32O7
reactant | methyl 3-azetidinecarboxylate | N1CC(C1)C(=O)OC | C5H9NO2
product | Methyl 1-(5-(ethoxycarbonyl)-2-{3-[4-(4-phenoxybutoxy)phenyl]propoxy}benzoyl)-3-azetidinecarboxylate | C(C)OC(=O)C=1C=CC(=C(C(=O)N2CC(C2)C(=O)OC)C1)OCCCC1=CC=C(C=C1)OCCCCOC1=CC=CC=C1 | C34H39NO8
